US07432260B2
[4-(2-Amino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-(3-methanesulonyl-phenyl)-amine [84].
By condensation of N′-[5-(3-dimethylamino-acryloyl)-4-methyl-thiazol-2-yl]-N,N-dimethyl-formamidine and N-(3-methanesulfonyl-phenyl)-guanidine nitrate. Yellow solid. Anal. RP-HPLC: tR=13.1 min (0-60% MeCN, purity>97%). 1H-NMR (DMSO-d6) δ: 2.55 (s, 3H, CH3), 3.19 (s, 3H, CH3), 6.97 (d, 1H, J=5.5 Hz, pyrimidinyl-H), 7.47 (m, 1H, Ph-H), 7.54 (t, 1H, J=7.5 Hz, Ph-H), 8.08 (m, 1H, Ph-H), 8.34 (brs, 1H, Ph-H), 8.40 (d, 1H, J=5.5 Hz, pyrimidinyl-H), 9.86 (sbr, 2H, NH2). MS (ESI+) m/z 362.38 [M+H]+ (C15H15N5O2S2 requires 361.44).

reactant | N′-[5-(3-dimethylamino-acryloyl)-4-methyl-thiazol-2-yl]-N,N-dimethyl-formamidine | CN(C=CC(=O)C1=C(N=C(S1)N=CN(C)C)C)C | C12H18N4OS
reactant | N-(3-methanesulfonyl-phenyl)-guanidine nitrate | [N+](=O)(O)[O-].CS(=O)(=O)C=1C=C(C=CC1)NC(=N)N
solvent | MeCN | CC#N | C2H3N
product | [4-(2-Amino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-(3-methanesulonyl-phenyl)-amine | NC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC(=CC=C1)S(=O)(=O)C | C15H15N5O2S2
